US04837217
Synthesis of 2-t-butyl-5-mercapto-4-methyl-3(2H)-pyridazinone starting material
To 75 ml of ethanol were added 17.0 g (0.085 mol) of 2-t-butyl-5-chloro-4-methyl-3(2H)-pyridazinone and 8.5 g (0.106 mol) of 70% sodium hydrosulfide and the mixture was stirred under reflax for 4 hours. After cooling, the mixture was poured into 300 ml of ice water and extracted with 200 ml of ethyl ether. The ether layer was washed with 100 ml of water, dried over anhydrous sodium sulfate and then freed of solvent by distillation to obtain 16.3 g of a crude product.

reactant | 2-t-butyl-5-chloro-4-methyl-3(2H)-pyridazinone | 0.085 mol, 17.0 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)Cl | C9H13ClN2O
reactant | sodium hydrosulfide | 0.106 mol, 8.5 g | [SH-].[Na+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 2-t-butyl-5-mercapto-4-methyl-3(2H)-pyridazinone | 16.3 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)S | C9H14N2OS
